* SPICE Netlist for the given BJT circuit
VCC 1 0 DC 15V
? Missing component
R2 4 3 1k
* NPN Transistors
Q1 4 7 8 QNPN
Q2 2 4 3 QNPN
Iout 2 0 0
.model QNPN NPN (IS=1e-14 BF=100)
.end
